### PR TITLE
feat: add lemmas for Nat/Bits, Nat/Bitwise and Nat/Size

### PR DESCRIPTION
**Pull request by Command-Master**
Remove `@[simp]` from `Nat.bit_false` and `Nat.bit_true`, as `bit0` and `bit1` are deprecated, and add some lemmas to `Bits`, `Bitwise` and `Size`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -48,6 +48,18 @@ set_option linter.deprecated false
 section
 variable {f : Bool → Bool → Bool}
 
+lemma succ_testBit_zero (n : ℕ) : (n + 1).testBit 0 = !n.testBit 0 := by
+  apply Nat.bitCasesOn n
+  intro b n
+  cases b <;> simp [Nat.testBit_bit_zero, -Nat.testBit_zero]
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bitwise.lean:54]:
```suggestion
  apply n.bitCasesOn
  rcases; simp [testBit_bit_zero, -testBit_zero]
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -48,6 +48,18 @@ set_option linter.deprecated false
...
+
+@[simp]
+lemma add_pow_testBit (n : ℕ) : (i : ℕ) → (n + 2^i).testBit i = !n.testBit i
+  | 0 => succ_testBit_zero n
+  | i+1 => by
+    simp only [pow_succ, testBit_succ, (by decide : 0 < 2), add_mul_div_right]
+    exact add_pow_testBit (n/2) i
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bitwise.lean:61]:
```suggestion
    exact add_pow_testBit (n / 2) i
```

File: Mathlib/Data/Nat/Size.lean [hunk 3]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
...
+  constructor
+  · intro h
+    constructor
+    rw [← Nat.lt_size, h]
+    apply lt_succ_self
+    exact h ▸ Nat.lt_size_self n
+  · rintro ⟨h1, h2⟩
+    apply le_antisymm
+    exact Nat.size_le.mpr h2
+    exact Nat.succ_le_iff.mp (Nat.lt_size.mpr h1)
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Size.lean:173]:
```suggestion
    rw [← lt_size, h]
    apply lt_succ_self
    exact h ▸ lt_size_self n
  · rintro ⟨h1, h2⟩
    apply le_antisymm
    exact size_le.mpr h2
    exact succ_le_iff.mp (lt_size.mpr h1)
```

File: Mathlib/Data/Nat/Size.lean [hunk 4]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
...
+    have ⟨j, ⟨h1, h2⟩⟩ := Nat.ge_two_pow_implies_high_bit_true lb
+    have t2 (j : ℕ) (hj : j > i) : n.testBit j = false :=
+      Nat.testBit_lt_two_pow (ub.trans_le (Nat.pow_le_pow_right (by decide) hj))
+    convert And.intro h2 t2
+    suffices j ≤ i by omega
+    by_contra nh
+    rw [← Bool.true_eq_false]
+    exact h2 ▸ t2 j (not_le.mp nh)
+  · rintro ⟨h1, h2⟩
+    exact ⟨Nat.testBit_implies_ge h1, Nat.lt_pow_two_of_testBit n h2⟩
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Size.lean:189]:
```suggestion
    have ⟨j, _, h⟩ := ge_two_pow_implies_high_bit_true lb
    have t (j : ℕ) (hj : j > i) : n.testBit j = false :=
      testBit_lt_two_pow (ub.trans_le (Nat.pow_le_pow_right (by decide) hj))
    convert And.intro h t
    suffices j ≤ i by omega
    by_contra nh
    rw [← Bool.true_eq_false]
    exact h ▸ t j (not_le.mp nh)
  · rintro ⟨h1, h2⟩
    exact ⟨testBit_implies_ge h1, lt_pow_two_of_testBit n h2⟩
```

File: Mathlib/Data/Nat/Size.lean [hunk 5]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
   · simpa [bit_eq_zero_iff]
 #align nat.size_eq_bits_len Nat.size_eq_bits_len
 
+lemma size_eq_iff_le_lt (n : ℕ) (i : ℕ) : n.size = i + 1 ↔ 2 ^ i ≤ n ∧ n < 2 ^ (i+1) := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Size.lean:163]:
```suggestion
lemma size_eq_iff_le_and_lt (n : ℕ) (i : ℕ) : n.size = i + 1 ↔ 2 ^ i ≤ n ∧ n < 2 ^ (i+1) := by
```

File: Mathlib/Data/Nat/Size.lean [hunk 6]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
...
+  constructor
+  · intro h
+    constructor
+    rw [← lt_size, h]
+    apply lt_succ_self
+    exact h ▸ lt_size_self n
+  · rintro ⟨h1, h2⟩
+    apply le_antisymm
+    exact size_le.mpr h2
+    exact succ_le_iff.mp (lt_size.mpr h1)
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Size.lean:173]:
```suggestion
    · exact size_le.mpr h2
    · exact succ_le_iff.mp (lt_size.mpr h1)
```

File: Mathlib/Data/Nat/Size.lean [hunk 7]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
...
+  constructor
+  · intro h
+    constructor
+    · rw [← lt_size, h]
+      apply lt_succ_self
+    · exact h ▸ lt_size_self n
+  · rintro ⟨h1, h2⟩
+    apply le_antisymm
+    · exact size_le.mpr h2
+    · exact succ_le_iff.mp (lt_size.mpr h1)
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Size.lean:173]:
```suggestion
lemma size_eq_iff_le_and_lt (n : ℕ) (i : ℕ) : n.size = i + 1 ↔ 2 ^ i ≤ n ∧ n < 2 ^ (i + 1) :=
  Iff.intro
    (fun h => And.intro (lt_size.mp <| h ▸ lt_succ_self _) <| h ▸ lt_size_self _)
    (fun h => le_antisymm (size_le.mpr h.2) <| succ_le_iff.mp <| lt_size.mpr h.1)
```

File: Mathlib/Data/Nat/Size.lean [hunk 8]
```diff
@@ -161,4 +160,32 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
...
+    have ⟨j, _, h⟩ := ge_two_pow_implies_high_bit_true lb
+    have t (j : ℕ) (hj : j > i) : n.testBit j = false :=
+      testBit_lt_two_pow (ub.trans_le (Nat.pow_le_pow_right (by decide) hj))
+    convert And.intro h t
+    suffices j ≤ i by omega
+    by_contra nh
+    rw [← Bool.true_eq_false]
+    exact h ▸ t j (not_le.mp nh)
+  · rintro ⟨h1, h2⟩
+    exact ⟨testBit_implies_ge h1, lt_pow_two_of_testBit n h2⟩
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Size.lean:189]:
```suggestion
  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
  · have ⟨j, _, h'⟩ := ge_two_pow_implies_high_bit_true h.1
    have t (j : ℕ) (hj : j > i) : n.testBit j = false :=
      testBit_lt_two_pow <| (h.2).trans_le <|Nat.pow_le_pow_right (by decide) hj
    suffices j ≤ i by convert And.intro h' t; omega
    by_contra nh
    exact Bool.true_eq_false.mp <| h' ▸ t j (not_le.mp nh)
  · exact ⟨testBit_implies_ge h.1, lt_pow_two_of_testBit n h.2⟩
```

File: Mathlib/Data/Nat/Bits.lean [hunk 9]
```diff
@@ -154,6 +179,15 @@ lemma bit_val (b n) : bit b n = 2 * n + cond b 1 0 := by
   · apply bit1_val
 #align nat.bit_val Nat.bit_val
 
+@[simp]
+lemma bit_true_succ (n : ℕ) : Nat.bit true n + 1 = Nat.bit false (n+1) := by
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bits.lean:183]:
```suggestion
lemma bit_true_succ (n : ℕ) : bit true n + 1 = bit false (n + 1) := by
```

File: Mathlib/Data/Nat/Bits.lean [hunk 10]
```diff
@@ -154,6 +179,15 @@ lemma bit_val (b n) : bit b n = 2 * n + cond b 1 0 := by
...
+  rw [bit_val, bit_val, cond_true, cond_false]
+  omega
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bits.lean:185]:
```suggestion
  rfl
```

File: Mathlib/Data/Nat/Bits.lean [hunk 11]
```diff
@@ -154,6 +179,15 @@ lemma bit_val (b n) : bit b n = 2 * n + cond b 1 0 := by
...
+
+@[simp]
+lemma bit_false_succ (n : ℕ) : Nat.bit false n + 1 = Nat.bit true n := by
```
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bits.lean:188]:
```suggestion
lemma bit_false_succ (n : ℕ) : bit false n + 1 = bit true n := by
```

**Review by Rida-Hamadani — APPROVED** [review]

File: Mathlib/Data/Nat/Bits.lean (hunk 10 above)
Comment (Rida-Hamadani) [inline Mathlib/Data/Nat/Bits.lean:185]:
```suggestion
  rw [bit_val, bit_val]
  rfl
```

**Comment by Rida-Hamadani** [comment]
LGTM!

File: Mathlib/Data/Nat/Bitwise.lean [hunk 12]
```diff
@@ -48,6 +48,17 @@ set_option linter.deprecated false
 section
 variable {f : Bool → Bool → Bool}
 
+lemma succ_testBit_zero (n : ℕ) : (n + 1).testBit 0 = !n.testBit 0 := by
+  apply n.bitCasesOn
+  rcases; simp [testBit_bit_zero, -testBit_zero]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Bitwise.lean:53]: What's this `rcases` doing? I don't think I've seen it without an argument before

File: Mathlib/Data/Nat/Size.lean [hunk 13]
```diff
@@ -161,4 +160,20 @@ theorem size_eq_bits_len (n : ℕ) : n.bits.length = n.size := by
   · simpa [bit_eq_zero_iff]
 #align nat.size_eq_bits_len Nat.size_eq_bits_len
 
+lemma size_eq_iff_le_and_lt (n : ℕ) (i : ℕ) : n.size = i + 1 ↔ 2 ^ i ≤ n ∧ n < 2 ^ (i + 1) :=
+    ⟨fun h => ⟨lt_size.mp <| h ▸ lt_succ_self _, h ▸ lt_size_self _⟩,
+    fun h => le_antisymm (size_le.mpr h.2) <| succ_le_iff.mp <| lt_size.mpr h.1⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Size.lean:165]: The proof should be indented only two spaces.

Optional: I've started writing proofs like this as
```suggestion
lemma size_eq_iff_le_and_lt (n : ℕ) (i : ℕ) : n.size = i + 1 ↔ 2 ^ i ≤ n ∧ n < 2 ^ (i + 1) where
  mp h := ⟨lt_size.mp <| h ▸ lt_succ_self _, h ▸ lt_size_self _⟩
  mpr h := le_antisymm (size_le.mpr h.2) <| succ_le_iff.mp <| lt_size.mpr h.1
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
I'm curious what you're using this for - I had it in the back of my mind to remove everything about `bit` at some point

File: Mathlib/Data/Nat/Bitwise.lean (hunk 12 above)
Comment (Command-Master) [reply Mathlib/Data/Nat/Bitwise.lean:53]: It seems like it didn't do anything, so I've removed it.

**Comment by Command-Master** [comment]
> I'm curious what you're using this for - I had it in the back of my mind to remove everything about `bit` at some point

I'm using it for #12750.

**Comment by Command-Master** [comment]
Perhaps they could all go to `Mathlib.Data.Nat.Bits`? I think I'll try to update #12750 and see what I need

**Comment by jcommelin** [comment]
This looks like it's pretty close to being mergeable. Could you please merge master and resolve the conflicts?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
